US05648338
(a) Preparation of N-formyl-N,α,β-tribenzylalanine cyclohexylamide
Bzl-NH2 288 μl (2.64 mmol) and benzyl phenethylketone 592 mg (2.64 mmol) were dissolved in MeOH (5 ml) at rt and the solution was stirred overnight. To the mixture were added formic acid 99.6 μl (2.64 mmol) and cyclohexylisocyanide 298 μl (2.4 mmol) at rt, which was allowed to react at rt for 2 weeks. Insoluble material in MeOH was collected by filtration and washed with MeOH, ether and then n-hexane. The crude product was recrystallized from CHCl3 with the 2 to 1 mixture of ether and n-hexane. Yield 540 mg (48.2%), NMR in CDCl3 ; δ=0.8-1.8 cyclohexyl (11H), δ=2.1-4.75 CH2 (8H), δ=5.45-5.55 NH (1H), δ=7.0-7.4 phenyl (15H), δ=8.25 (main) and 8.4 (minor) formyl (1H).

reactant | Bzl-NH2 | 2.64 mmol, 288 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | benzyl phenethylketone | 2.64 mmol, 592 mg | C(C1=CC=CC=C1)C(=O)CCC1=CC=CC=C1 | C16H16O
reactant | formic acid | 2.64 mmol, 99.6 μl | C(=O)O | CH2O2
reactant | cyclohexylisocyanide | 2.4 mmol, 298 μl | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | MeOH | 5 ml | CO | CH4O
product | N-formyl-N,α,β-tribenzylalanine cyclohexylamide | C1(CCCCC1)NC([C@@](N(CC1=CC=CC=C1)C=O)(CCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C31H36N2O2
